US07615563B2
6-Methoxy-1,2,3,4-tetrahydro-quinoline
A mixture of 6-methoxyquinoline (69 μL, 0.5 mmol), ammonium formate (0.32 g, 5.0 mmol), and 10% Pd/C (0.05 g) in anhydrous MeOH (5 mL) was microwaved for 900 s at 100° C. The mixture was filtered and 2M HCl in Et2O (1.5 mL) was added. The product was redissolved in H2O/DCM and the aqueous layer basified with 0.1M aq. NaOH (pH 8). After extracting three times with DCM, the organic layer was concentrated to give the product in 89% yield. The product was used without further purification. LC/MS (10-99%) M/Z: M+1 obs=164.0; tR=0.40 min.

reactant | 6-methoxyquinoline | 0.5 mmol, 69 μL | COC=1C=C2C=CC=NC2=CC1 | C10H9NO
reactant | ammonium formate | 5.0 mmol, 0.32 g | C(=O)[O-].[NH4+]
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.05 g | [Pd] | Pd
product | 6-Methoxy-1,2,3,4-tetrahydro-quinoline | 89% yield | COC=1C=C2CCCNC2=CC1 | C10H13NO
